US08431567B2
5-Chloro-3-(2-methoxyphenyl)-3-(4-pyridin-3-yl-piperazin-1-yl)-1,3-dihydro-indol-2-one
Pyridine (0.18 mL, 2.24 mmol) and thionyl chloride (0.16 mL, 2.24 mmol) were added to a solution of 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-indol-2-one (WO 2005/030755, 0.50 g, 1.73 mmol) in dichloromethane (40 mL) with ice cooling, and stirred for 45 min at 0° C. The reaction solution was quenched with water, while stirring, and the preparation was extracted with dichloromethane. The organic phase was washed with water and saturated sodium chloride solution, dried over sodium sulphate and concentrated at reduced pressure. N,N-diisopropylethylamine (0.81 mL, 4.66 mmol) and 1-pyridin-3-yl-piperazine, HCl salt (0.34 g, 1.73 mmol) were added to a solution of the 3-chloro-oxindole intermediate thus obtained in dichloromethane/THF (20 mL) and the reaction mixture was stirred for 12 h at room temperature. The reaction mixture was concentrated at reduced pressure and the residue was distributed between ethyl acetate and water. The aqueous phase was extracted with ethyl acetate again. The combined organic phase was dried over sodium sulphate and concentrated at reduced pressure, and was used further without additional purification. Yield: 0.62 g.

reactant | Pyridine | 2.24 mmol, 0.18 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 2.24 mmol, 0.16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 5-chloro-3-hydroxy-3-(2-methoxyphenyl)-1,3-dihydro-indol-2-one | 1.73 mmol, 0.50 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=C(C=CC=C1)OC)O | C15H12ClNO3
reactant | N,N-diisopropylethylamine | 4.66 mmol, 0.81 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-oxindole | ClC1C(NC2=CC=CC=C12)=O | C8H6ClNO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane THF | 20 mL | ClCCl.C1CCOC1
product | 5-Chloro-3-(2-methoxyphenyl)-3-(4-pyridin-3-yl-piperazin-1-yl)-1,3-dihydro-indol-2-one | ClC=1C=C2C(C(NC2=CC1)=O)(N1CCN(CC1)C=1C=NC=CC1)C1=C(C=CC=C1)OC | C24H23ClN4O2
